US06051586
EXAMPLE 8 1-(4-Nitrophenyl)-5-tetrazolone
A solution of 1-phenyl-5-tetrazolone (30 g) in acetonitrile (300 mL) was stirred under argon at 0° C. and nitronium tetrafluoroborate (36.9 g) was added over 30 minutes. After stirring at 0° C. for an additional 30 minutes the mixture was poured into water (900 mL). The precipitate was collected by filtration and dried under vacuum to give 23.1 g of the title compound as cream-colored solids. The filtrate was extracted with ethyl acetate, dried (MgSO4), filtered, and concentrated to give an additional 8.6 g of solids which was a 1:1 mixture of ortho- and para-substituted isomers. 1H NMR (acetone-d6) δ 13.62 (br s, 1 H), 8.36 (ABq, JAB =9.2 Hz, 4 H); MS (EI) m/z 207 (M+); Rf=0.2 (10% methanol/dichloromethane).

reactant | 1-phenyl-5-tetrazolone | 30 g | C1(=CC=CC=C1)N1NN=NC1=O | C7H6N4O
reactant | nitronium tetrafluoroborate | 36.9 g | F[B-](F)(F)F.O=[N+]=O
reactant | water | 900 mL | O | H2O
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | 1-(4-Nitrophenyl)-5-tetrazolone | 23.1 g | [N+](=O)([O-])C1=CC=C(C=C1)N1NN=NC1=O | C7H5N5O3
